US06921759B2
5-(1,1-dioxido-1,2-thiazinan-2-yl)-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide
To a mixture of 1,4 butanesultam (prepared as in White et al, J. Org Chem. 1987, 52: 2162) (1.00 g, 7.40 mmol), 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (3.06 g, 8.14 mmol), and Cu2O (1.06 g, 7.40 mmol) under an atmosphere of argon was added pyridine (50 mL), and the suspension was stirred at reflux for 16 hr. The reaction was allowed to cool to room temperature and filtered to remove the solids. The solids were washed with chloroform (500 mL). The resulting filtrate was evaporated to dryness and the residue was dissolved in chloroform (1L) and vigorously stirred with a slurry of EDTA (4.0 g) in water (150 mL). After a period of 16 hr, the chloroform extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by reverse phase HPLC. (Waters PrePak 500 cartridge C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 75 mL/min over 45 mins). Lyophilization of the pure fractions afforded the title compound as an off-white solid.

reactant | 1,4 butanesultam | 7.40 mmol, 1.00 g | C1CCS(=O)(=O)NC1 | C4H9NO2S
reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 8.14 mmol, 3.06 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O)=O | C20H19FN4O4S
